US06096924
A hydrogenation reactor is charged with 15 parts of sodium acetate, 60 parts of NaHCO3, 1320 parts of MeOH and 1015 parts of 1-chloro-2,4-dinitrochlorobenzene under nitrogen at 50° C. and then 11 parts of 1% Pt/C, 0.15 parts of NH4VO3 and 66 parts of water are added.The hydrogenation is carried out at 60° C. and 18 bar. The product is isolated as 3-amino-4-chloroacetanilide (785 parts, 85% of theory).

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | MeOH | CO | CH4O
reactant | 1-chloro-2,4-dinitrochlorobenzene | ClC1=C(C(=C(C=C1)[N+](=O)[O-])Cl)[N+](=O)[O-] | C6H2Cl2N2O4
catalyst | Pt/C | [Pt] | Pt
solvent | water | O | H2O
product | 3-amino-4-chloroacetanilide | 85% | CC(=O)NC1=CC(=C(C=C1)Cl)N | C8H9ClN2O
